US07772285B2
2.50 g of methyl 3-methoxy-4-methylbenzoate was dissolved in 25 mL of benzene, to which 2.72 g of N-bromosuccinimide and 0.23 g of 2,2′-azobisisobutyronitrile were successively added at room temperature, and this solution was stirred for one hour while heating it under reflux. After 3.90 g of hexamethylenetetramine dissolved in 7.8 mL of acetic acid and 7.8 mL of water was added dropwise to the reaction mixture, benzene was distilled out therefrom, and then the mixture was stirred for one hour while heating it under reflux. The reaction mixture, which was cooled to room temperature, was added to a mixture of chloroform and water and then adjusted to pH 7 with a 20% aqueous solution of sodium hydroxide, and the organic phase was separated therefrom. After the resultant organic phase was successively washed with water, a saturated aqueous solution of sodium hydrogen carbonate, and a saturated sodium chloride solution, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=3:1] to yield 1.74 g of methyl 4-formyl-3-methoxybenzoate as white solid.

reactant | methyl 3-methoxy-4-methylbenzoate | 2.50 g | COC=1C=C(C(=O)OC)C=CC1C | C10H12O3
reactant | N-bromosuccinimide | 2.72 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 0.23 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | hexamethylenetetramine | 3.90 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
solvent | acetic acid | 7.8 mL | C(C)(=O)O | C2H4O2
solvent | water | 7.8 mL | O | H2O
product | methyl 4-formyl-3-methoxybenzoate | 1.74 g | C(=O)C1=C(C=C(C(=O)OC)C=C1)OC | C10H10O4
